US05464811
To a solution of tin (II) chloride monohydrate (200 g, 0.886 mol) dissolved in concentrated hydrochloric acid (200 ml) and THF (200 ml) was added a THF (200 ml) solution of 2-fluoro-4-chloro-5-cyclopentyloxyphenyl-diazonium fluoroborate (31.3 g, 0.094 mol) under cooling at 0 to 5° C. After stirring for 8 hours at that temperature, an aqueous solution (1,000 ml) of potassium hydroxide (160 g) was added thereto. The solid that was formed was separated by filtration, and the filtrate was extracted with ethyl acetate (1,000 ml×3). The extract was washed with a saturated aqueous solution of sodium chloride (1,000 ml), and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, and the solvent was distilled off under reduced pressure to obtain 2-fluoro-4-chloro-5cyclopentyloxyphenylhydrazine as brown crystals (20.9 g, 85.6% yield).

reactant | tin (II) chloride monohydrate | 0.886 mol, 200 g | O.[Sn](Cl)Cl
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | 2-fluoro-4-chloro-5-cyclopentyloxyphenyl-diazonium fluoroborate | 0.094 mol, 31.3 g | F[B-](F)(F)F.FC1=C(C=C(C(=C1)Cl)OC1CCCC1)[N+]#N
reactant | potassium hydroxide | 1,000 ml, 160 g | [OH-].[K+]
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 2-fluoro-4-chloro-5cyclopentyloxyphenylhydrazine | 20.9 g, 85.6% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NN | C11H14ClFN2O
